US04048223
5-[3-(N-Benzyl-N-ethylamino)-propyl]-5H-dibenzo[a,d]cycloheptene
5-(3-Iodopropyl)-5H-dibenzo[a,d]cycloheptene is added gradually to an excess of N-ethyl benzylamine in absolute alcohol with stirring and cooling. The reaction mixture then is heated to refluxing for 30 minutes and the alcohol distilled under reduced pressure. The residue is warmed with dilute acid and the acid-insoluble material separated. The aqueous layer then is rendered alkaline with sodium hydroxide and the liberated bases extracted into ether. The ether is evaporated and the product isolated by vacuum distillation.

reactant | 5-(3-Iodopropyl)-5H-dibenzo[a,d]cycloheptene | ICCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C18H17I
reactant | N-ethyl benzylamine | C(C)NCC1=CC=CC=C1 | C9H13N
product | 5-[3-(N-Benzyl-N-ethylamino)-propyl]-5H-dibenzo[a,d]cycloheptene | C(C1=CC=CC=C1)N(CC)CCCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C27H29N
